US04544766
A 10 g quantity of tetraethyl ammonium salt of p-toluenesulfonic acid was dissolved in 60 ml of dimethylformamide containing 0.1 mole of chloroform. The solution was placed in a cathode chamber and in an anode chamber. Further 13.6 g (0.1 mole) of p-methoxybenzaldehyde and 0.01 mole of carbon tetrachloride was introduced into the cathode chamber. A glass filter was used as a diaphragm. Electrolysis was conducted at a constant current of 0.1 A. After current (2 F/mole) was passed, the reaction liquid was withdrawn from the cathode chamber. The carbon tetrachloride and chloroform were distilled off and the residue was extracted with methylene chloride. The methylene chloride was distilled off from the extract and the residue was distilled in a vacuum, giving trichloromethyl-4-methoxyphenyl carbinol. Yield 94.5%, b.p. 122°-124° C./1 mmHg.

reactant | tetraethyl ammonium | C(C)[N+](CC)(CC)CC
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dimethylformamide | 0.1 mole, 60 ml | CN(C=O)C | C3H7NO
reactant | p-methoxybenzaldehyde | 0.1 mole, 13.6 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | carbon tetrachloride | 0.01 mole | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | trichloromethyl-4-methoxyphenyl carbinol | Yield 94.5% | ClC(Cl)(Cl)C(O)C1=CC=C(C=C1)OC | C9H9Cl3O2
